US05114966
2-(RS)-(2-acetoxyethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane
A solution of 150 mg of 2-(RS)-(2-hydroxyethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane in 0.6 ml of pyridine is treated with 0.3 ml of acetic anhydride. The mixture is stirred in nitrogen atmosphere at room temperature for 6 hours. After acidifying with hydrochloric acid, the suspension is extracted with ethylic ether then the extracts are dried and evaporated 165 mg of a white crystalline solid are obtained. m.p. 80°-82° C.; IR(KBr): 1742 cm-1 (νAcO); 1H-NMR (CCl4): δ7.4-7.1 (5H,m), 5.0-4.6 (1H,m), 4.6 (2H,s), 4.2 (2H,t), 3.4-2.6 (2H,m), 2.2 (3H,s), 2.1 (3H,s), 2.0 (6H,s), 2.0-1.8 (2H,m).

reactant | 2-(RS)-(2-hydroxyethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane | 150 mg | OCCC1OC2=C(C1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C | C20H24O3
reactant | acetic anhydride | 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
product | 2-(RS)-(2-acetoxyethyl)-2,3-dihydro-5-benzyloxy-4,6,7-trimethylbenzofurane | C(C)(=O)OCCC1OC2=C(C1)C(=C(C(=C2C)C)OCC2=CC=CC=C2)C | C22H26O4
